US09233060B2
c) Synthesis of 1-[2-(1H-imidazol-1-yl)ethyl]-7-nitro-1,2,3,4-tetrahydroquinoline
In a 100-ml round-bottomed, three-necked flask fitted with a condenser and a thermometer, under an inert (nitrogen) atmosphere, 8.6 g (30 mmol) of 2-(1H-imidazol-1-yl)-1-(7-nitro-3,4-dihydroquinolin-1-(2H)-yl)ethanone are dissolved in 10 ml of dry THF. The solution was stirred at 0° C. and 150 ml (5 eq) of a 1.0M solution of BH3 in THF were added. The reaction medium was left to return to ambient temperature and was then stirred overnight. The reaction mixture was carefully acidified (drop by drop) with 1N HCl (considerable foaming and release of gas), before being brought to reflux for 0.5 h. The mixture was then cooled to ambient temperature and neutralized with 4.0N sodium hydroxide. The medium is extracted several times with ethyl acetate. The organic phases were combined, and dried over MgSO4. After filtration, the solvent was removed by evaporation. The residue was purified by chromatography on a column of silica (dichloromethane/methanol). After evaporation of the solvents, crystallization was initiated with diethyl ether so as to give the expected product: 1-(2-(1H-imidazol-1-yl)ethyl)-7-nitro-1,2,3,4-tetrahydroquinoline in the form of an orange solid (Mp 120-121° C.).

reactant | 2-(1H-imidazol-1-yl)-1-(7-nitro-3,4-dihydroquinolin-1-(2H)-yl)ethanone | 30 mmol, 8.6 g | N1(C=NC=C1)CC(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C14H14N4O3
reactant | HCl | 1N | Cl | ClH
reactant | sodium hydroxide | 4.0N | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-[2-(1H-imidazol-1-yl)ethyl]-7-nitro-1,2,3,4-tetrahydroquinoline | N1(C=NC=C1)CCN1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C14H16N4O2
